US07888364B2
N-(4-Chloro-3-iodophenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide (142 mg, 0.32 mmol) was used in Procedure B with 6-methyl-2-pyridylzinc bromide (1.75 mL, of a 0.5 M in THF). Purified by silica gel chromatography (5-100% Ethyl acetate/Hexanes) to yield N-(4-chloro-3-(3-methylpyridin-2-yl)phenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide as a white solid: TLC Rf=0.23 (30% ethyl acetate/hexanes); 1H NMR (CDCl3, 400 MHz) δ 8.81 (bs, 1H), 7.95 (dd, 1H), 7.67 (m, 3H), 7.53 (t, 2H), 7.38 (d, 1H), 7.07 (d, 1H), 2.71 (s, 3H), 2.43 (s, 3H); MS (Q1) 406.1 (M)+.

reactant | N-(4-Chloro-3-iodophenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide | 0.32 mmol, 142 mg | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)I | C14H9ClF3IN2O
reactant | 6-methyl-2-pyridylzinc bromide | [Br-].CC1=CC=CC(=N1)[Zn+]
reactant | THF | C1CCOC1 | C4H8O
product | N-(4-chloro-3-(3-methylpyridin-2-yl)phenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)C1=NC=CC=C1C | C20H15ClF3N3O
